US05495020
Employing ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate and cyclopropylamine, the procedure of Reference Example 21 is repeated to give ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate.

reactant | ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | C(C)C1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C16H16F4O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | ethyl 2-(2-ethyl-3,4,5,6-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate | C(C)C1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C(=C(C(=C1F)F)F)F | C17H17F4NO3
